US05073559
The starting-material, 4-methyl-2-propoxybenzamide, was prepared by reacting methyl 4-methylsalicylate (25.75 g) with ethanolic ammonia to yield 4-methylsalicylamide (12.54 g) which was then reacted with bromopropane, potassium iodide and potassium carbonate in acetone.

reactant | 4-methyl-2-propoxybenzamide | CC1=CC(=C(C(=O)N)C=C1)OCCC | C11H15NO2
reactant | methyl 4-methylsalicylate | 25.75 g | CC=1C=C(C(C(=O)OC)=CC1)O | C9H10O3
reactant | ammonia | N | H3N
product | 4-methylsalicylamide | 12.54 g | CC=1C=C(C(C(=O)N)=CC1)O | C8H9NO2
